US05073566
α-Hexyl-4-{[3-(acetylamino)-2-carboxybenzoyl]amino}-1H-imidazole-1-acetic acid ethyl ester
Following the procedure of Example 2, 1.54 g of 4-nitro-α-hexyl-1H-imidazole-1-acetic acid ethyl ester were hydrogenated to the corresponding amine and allowed to react with 1.12 g of 3-acetamidophthalic anhydride in ethyl acetate. After stirring at room temperature, the solution was concentrated in vacuo and a small amount ethyl acetate added. After sitting overnight, the resulting solid was collected by filtration. Crystallization from hot ethyl acetate/methanol/hexanes provided 0.54 g of the desired intermediate, m.p. 144°-145° C. NMR.

reactant | 4-nitro-α-hexyl-1H-imidazole-1-acetic acid ethyl ester | 1.54 g | C(C)OC(C(N1C=NC(=C1)[N+](=O)[O-])CCCCCC)=O | C13H21N3O4
reactant | 3-acetamidophthalic anhydride | 1.12 g | C(C)(=O)NC1=C2C(C(=O)OC2=O)=CC=C1 | C10H7NO4
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | α-Hexyl-4-{[3-(acetylamino)-2-carboxybenzoyl]amino}-1H-imidazole-1-acetic acid ethyl ester | 0.54 g | C(C)OC(C(N1C=NC(=C1)NC(C1=C(C(=CC=C1)NC(C)=O)C(=O)O)=O)CCCCCC)=O | C23H30N4O6
